US04675047
4-[N-(7-Chloro-4-quinazolinyl)-N-methylamino]phenol was reacted with ethyl 2-bromopropionate, following essentially the same procedure as that described in Example 3 part(b), to give ethyl 2-{4-[N-(7-chloro-4-quinazolinyl)-N-methylamino]phenoxy}propionate as a yellow solid mp 92° C. The assigned structure was confirmed by proton magnetic resonance spectroscopy and mass spectrometry.

reactant | 4-[N-(7-Chloro-4-quinazolinyl)-N-methylamino]phenol | ClC1=CC=C2C(=NC=NC2=C1)N(C)C1=CC=C(C=C1)O | C15H12ClN3O
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | ethyl 2-{4-[N-(7-chloro-4-quinazolinyl)-N-methylamino]phenoxy}propionate | ClC1=CC=C2C(=NC=NC2=C1)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H20ClN3O3
